US05534515
1a. 1-Benzyl-7-(4-fluorobenzyloxy)-3-hydroxymethyl-2-methylpyrrolo[2,3-d]pyridazine
A solution of 780 mg (2.08 mmol) of 1-benzyl-7-(4-fluorobenzyloxy) 3-formyl-2 -methylpyrrolo [2,3-d]pyridazine in 50 ml of ethanol is treated with 80 mg (2.1 mmol) of sodium borohydride and stirred at room temperature for 30 min. After addition of 100 ml of water, the mixture is concentrated on a rotary evaporator to half the volume. The precipitate is filtered off, washed with 50 ml of water and dried in a high vacuum over potassium hydroxide. 670 mg (85%) of the title compound are isolated. M.p.: 122°-124° C.

reactant | 1-benzyl-7-(4-fluorobenzyloxy) 3-formyl-2 -methylpyrrolo [2,3-d]pyridazine | 2.08 mmol, 780 mg | C(C1=CC=CC=C1)N1C(=C(C=2C1=C(N=NC2)OCC2=CC=C(C=C2)F)C=O)C | C22H18FN3O2
reactant | sodium borohydride | 2.1 mmol, 80 mg | [BH4-].[Na+]
reactant | water | 100 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-Benzyl-7-(4-fluorobenzyloxy)-3-hydroxymethyl-2-methylpyrrolo[2,3-d]pyridazine | 670 mg, 85% | C(C1=CC=CC=C1)N1C(=C(C=2C1=C(N=NC2)OCC2=CC=C(C=C2)F)CO)C | C22H20FN3O2
